US06090852
(c) 2-({methyl[(4'-cyanobiphen-4-yl)methyl]amino}sulfonyl)acetic acid
To a solution of methyl-2-({methyl[(4'-cyanobiphen-4-yl)methyl]amino}-sulfonyl)acetate (200 mg, 0.56 nunol) in methanol (2 ml) and tetrahydroflran (5 ml) was added 1 M aqueous sodium hydroxide solution (1.2 ml, 1.2 mmol) and the mixture was stirred at ambient temperature for 2 hours. The solution was diluted with water (10 ml), acidified to pH 2 with 2 M aqueous hydrochloric acid and extracted with dichloromethane (2×30 ml). The combined organic layers were dried (Na2SO4), and the solvent was evaporated under reduced pressure to give the title compound as a pale yellow solid (130 mg).

reactant | methyl-2-({methyl[(4'-cyanobiphen-4-yl)methyl]amino}-sulfonyl)acetate | 200 mg | COC(CS(=O)(=O)N(CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)C)=O | C18H18N2O4S
reactant | sodium hydroxide | 1.2 mmol, 1 M, 1.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 2-({methyl[(4'-cyanobiphen-4-yl)methyl]amino}sulfonyl)acetic acid | 130 mg | CN(S(=O)(=O)CC(=O)O)CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C17H16N2O4S
